US05559230
5-Methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1 g) is dissolved in dimethylformamide (10 ml) and thereto are added potassium carbonate (0.5 g) and ethyl iodide (0.45 g). The mixture is stirred at room temperature overnight. After completion of the reaction, the reaction solution is poured into ice-water and the precipitated crystal is collected by filtration, and purified by silica gel column chromatography (eluent; dichloromethane:methanol=90:1), and recrystallized from diisopropyl alcohol/petroleum ether to give 5-(N-methyl-N-ethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (50 mg) as white powder, m. p. 192°-193° C.

reactant | 5-Methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1 g | CNC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H27N3O2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.45 g | C(C)I | C2H5I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(N-methyl-N-ethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 50 mg | CN(CC)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C28H31N3O2
